US08404679B2
d) [(3RS,4SR)-1-Benzyl-4-(4-chloro-2-methyl-phenyl)-pyrrolidin-3-yl]-methyl-amine
In analogy to the procedure described for the synthesis of pyrrolidine intermediate VIII-1 (step c), the title compound [(3RS,4SR)-1-benzyl-4-(4-chloro-2-methyl-phenyl)-pyrrolidin-3-yl]-methyl-amine was prepared from (3RS,4SR)-1-benzyl-4-(4-chloro-2-methyl-phenyl)-pyrrolidin-3-ylamine instead of (3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-ylamine and was obtained as a colorless oil. MS m/e: 315.1 [M+H]+.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | (3RS,4SR)-1-benzyl-4-(4-chloro-2-methyl-phenyl)-pyrrolidin-3-ylamine | C(C1=CC=CC=C1)N1CC(C(C1)C1=C(C=C(C=C1)Cl)C)N | C18H21ClN2
product | [(3RS,4SR)-1-benzyl-4-(4-chloro-2-methyl-phenyl)-pyrrolidin-3-yl]-methyl-amine | C(C1=CC=CC=C1)N1CC(C(C1)C1=C(C=C(C=C1)Cl)C)NC | C19H23ClN2
